US05587373
2-Benzoyloxy-7α-methoxy-3-methyl-4-phenylcarbonyl-3-cephem 1,1-dioxide (compound 24)
A mixture of 2-bromo-7α-methoxy-3-methyl-4-phenylcarbonyl-3-cephem 1,1-dioxide (130 mg) and silver benzoate (115 mg) in acetonitrile (10 ml) was stirred at room temperature for 30 minutes. The reaction mixture was diluted with EtOAc, then filtered and the filtrate was rotoevaporated. The residue was purified by flash chromatography (eluting with n-hexane/EtOAc mixtures) affording the title product as a white powder (85 mg) IR (KBr) 1805, 1740, 1675.

reactant | 2-bromo-7α-methoxy-3-methyl-4-phenylcarbonyl-3-cephem 1,1-dioxide | 130 mg | BrC1S([C@H]2N(C(=C1C)C(=O)C1=CC=CC=C1)C([C@@H]2OC)=O)(=O)=O | C15H14BrNO5S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | silver benzoate | 115 mg | C(C1=CC=CC=C1)(=O)[O-].[Ag+]
product | 2-Benzoyloxy-7α-methoxy-3-methyl-4-phenylcarbonyl-3-cephem 1,1-dioxide | 85 mg | C(C1=CC=CC=C1)(=O)OC1S([C@H]2N(C(=C1C)C(=O)C1=CC=CC=C1)C([C@@H]2OC)=O)(=O)=O | C22H19NO7S
